US07405236B2
b] {6-[5-(3-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester
In analogy to the procedure described for example 1 d], (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (example 1 c]) was reacted with 5-(3-trifluoromethoxy-phenyl)-pent-4-yn-1-ol in the presence of N,N,N′,N′-tetramethyl azodicarboxamide and tributylphosphine to give the title compound as colorless oil.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | 5-(3-trifluoromethoxy-phenyl)-pent-4-yn-1-ol | FC(OC=1C=C(C=CC1)C#CCCCO)(F)F | C12H11F3O2
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
product | {6-[5-(3-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCCCC#CC1=CC(=CC=C1)OC(F)(F)F)=O | C24H22F3NO4
